// Generated for: spectre (Mar 20 14:03:59 2013 )
// Library name: gsclib045
// Cell name: CLKBUFX12
// View name: schematic

simulator lang=spectre

subckt CLKBUFX12 A Y VSS VDD
mn1 (Y net44 VSS VSS) g45n1svt w=(3.1u) l=45n nf=1 as=434f ad=434f \
        ps=6.48u pd=6.48u nrd=45.1613m nrs=45.1613m sa=140n sb=140n \
        sd=160n sca=51.36485 scb=0.05380 scc=0.00636 m=(1)
mn0 (net44 A VSS VSS) g45n1svt w=(780n) l=45n nf=1 as=109.2f ad=109.2f \
        ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n sb=140n \
        sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
mp1 (Y net44 VDD VDD) g45p1svt w=(4.7u) l=45n nf=1 as=658f ad=658f \
        ps=9.68u pd=9.68u nrd=29.7872m nrs=29.7872m sa=140n sb=140n \
        sd=160n sca=47.81913 scb=0.05187 scc=0.00600 m=(1)
mp0 (net44 A VDD VDD) g45p1svt w=(1.17u) l=45n nf=1 as=163.8f ad=163.8f \
        ps=2.62u pd=2.62u nrd=119.658m nrs=119.658m sa=140n sb=140n \
        sd=160n sca=67.91660 scb=0.06314 scc=0.00813 m=(1)
ends CLKBUFX12
// End of subcircuit definition.

