// Generated for: spectre (Mar 20 14:04:05 2013 )
// Library name: gsclib045
// Cell name: CLKBUFX3
// View name: schematic

simulator lang=spectre

subckt CLKBUFX3 A Y VDD VSS
mn1 (Y net44 VSS VSS) g45n1svt w=(780n) l=45n nf=1 as=109.2f ad=109.2f \
        ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n sb=140n \
        sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
mn0 (net44 A VSS VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
mp1 (Y net44 VDD VDD) g45p1svt w=(1.17u) l=45n nf=1 as=163.8f ad=163.8f \
        ps=2.62u pd=2.62u nrd=119.658m nrs=119.658m sa=140n sb=140n \
        sd=160n sca=67.91660 scb=0.06314 scc=0.00813 m=(1)
mp0 (net44 A VDD VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f ad=54.6f \
        ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n \
        sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
ends CLKBUFX3
// End of subcircuit definition.

