// Generated for: spectre (Mar 20 14:04:10 2013 )
// Library name: gsclib045
// Cell name: CLKBUFX8
// View name: schematic

simulator lang=spectre

subckt CLKBUFX8 A Y VSS VDD
mn1 (Y net44 VSS VSS) g45n1svt w=(2.065u) l=45n nf=1 as=289.1f ad=289.1f \
        ps=4.41u pd=4.41u nrd=67.7966m nrs=67.7966m sa=140n sb=140n \
        sd=160n sca=56.50260 scb=0.05663 scc=0.00690 m=(1)
mn0 (net44 A VSS VSS) g45n1svt w=(520n) l=45n nf=1 as=72.8f ad=72.8f \
        ps=1.32u pd=1.32u nrd=269.231m nrs=269.231m sa=140n sb=140n \
        sd=160n sca=98.28759 scb=0.08111 scc=0.01166 m=(1)
mp1 (Y net44 VDD VDD) g45p1svt w=(3.115u) l=45n nf=1 as=436.1f ad=436.1f \
        ps=6.51u pd=6.51u nrd=44.9438m nrs=44.9438m sa=140n sb=140n \
        sd=160n sca=51.31501 scb=0.05377 scc=0.00636 m=(1)
mp0 (net44 A VDD VDD) g45p1svt w=(780n) l=45n nf=1 as=109.2f ad=109.2f \
        ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n sb=140n \
        sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
ends CLKBUFX8
// End of subcircuit definition.

